Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / codeine / acetaminophen / oxycodone
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Impressions:
left main normal
LAD with 70% mid diffuse disease
LCX mild disease
RCA mild disease
Recommendations
med tx

 
History of Present Illness:
___ yo M with HTN, HLD, AF on Xarelto (last dose ___ who 
presented to ___ on ___ with chest pain and 
marginal trop leak. He was transferred to ___ holding area for 
cardiac catheterization for ongoing chest pain. 

 
Past Medical History:
CLL
PPM for bradycardia
Stroke in ___
HTN
HLD
DM
 
Social History:
___
Family History:
- no cancer or stroke
 
Physical Exam:
ADMISSION EXAM:
VS:
Temp: afeb
HR: 63 SR
RR: 18, comfortable
BP: 146/65 
O2 sat: 100% 2L 
ECG: NA 
General: lying on stretcher, anxious but cooperative
HEENT: MM dry 
Neck: no LAD, no JVD
CV: RRR, no M/R/G
Chest: LS clear bilat
ABD: soft, NT
Ext: no edema, DP and ___ pulses dopplerable
.
DISCHARGE EXAM: 
VS:98.2, 126/67, HR 58, RR 20, 02 sat 96% RA. 
Tele: Sinus rhythem, 12 beats SVT overnight, asymptomatic, labs 
WNL.
ECG: SB @ 58 bpm.
LABS: Hct 27.5, Plts 167, INR 0.9, BUN 16, Creat 1.3, Na 135, 
K+4.5, Trop <0.01 , CK-MB 2, Mag 2.3. 
PE:
General: lying on stretcher, anxious but cooperative
Neuro: Awake, alert and oriented x3, vague but appropriate. MAE. 
Ambulating with cane in halls. Speech clear, appropriate and 
comprehensible. 
HEENT: MM dry 
Neck: no LAD, no JVD
CV: RRR, no M/R/G
Chest: LS clear bilat
ABD: soft, NT
Ext: no edema, DP and ___ pulses dopplerable. Access site without 
bleeding, hematoma or bruit. 

 
Pertinent Results:
___ 11:00AM BLOOD WBC-11.3*# RBC-3.62* Hgb-9.9* Hct-31.2* 
MCV-86 MCH-27.3 MCHC-31.7* RDW-14.9 RDWSD-46.3 Plt ___
___ 04:15AM BLOOD Hct-27.5* Plt ___
___ 04:15AM BLOOD Plt ___
___ 04:15AM BLOOD ___
___ 02:00AM BLOOD Plt ___
___ 10:55AM BLOOD PTT-54.9*
___ 12:26AM BLOOD PTT-23.9*
___ 11:00AM BLOOD Plt ___
___ 04:15AM BLOOD UreaN-16 Creat-1.3* Na-135 K-4.5
___ 02:00AM BLOOD K-4.1
___ 04:20AM BLOOD UreaN-17 Creat-1.2 Na-135 K-4.0
___ 11:00AM BLOOD Glucose-313* UreaN-12 Creat-1.1 Na-131* 
K-4.9 Cl-95* HCO3-23 AnGap-18
___ 04:15AM BLOOD CK(CPK)-71
___ 04:15AM BLOOD CK-MB-2 cTropnT-<0.01
___ 02:00AM BLOOD cTropnT-<0.01
___ 07:30PM BLOOD cTropnT-<0.01
___ 04:20AM BLOOD cTropnT-<0.01
___ 06:50PM BLOOD cTropnT-<0.01
___ 11:00AM BLOOD cTropnT-<0.01
___ 04:15AM BLOOD Mg-2.3
 
Brief Hospital Course:
This is a ___ year old male with a history of dementa, CVA, 
hyperlipidemia, hypertension and OSA transferred for cardiac 
catheterization following presentation to ___ for chest pain 
and a mildly elevated troponin. He underwent repeat 
catheterization ___ and received a DES to the LAD. 
Post-procedure he is doing well and is looking forward to being 
discharged. His access sites were dry and intact, with no 
erythema, excess warmth, bleeding or bruit noted. He will be 
discharged home with home services and support as prior to 
admission, with addition of ___ services for home evaluation, 
safety and will hopefully transition to cardiac rehab when 
appropriate. Referral discussed and given. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete. 
(Verified per outside documents. Patient not sure what he is on 
at home.)
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H 
2. Losartan Potassium 50 mg PO DAILY 
3. Magnesium Oxide 400 mg PO BID 
4. Divalproex (EXTended Release) 500 mg PO BID 
5. Divalproex (EXTended Release) 250 mg PO QHS 
6. Gabapentin 300 mg PO TID 
7. ibrutinib 420 mg oral DAILY 
8. ZIPRASidone Hydrochloride 40 mg PO BID 
9. Metoprolol Tartrate 12.5 mg PO BID 
10. MetFORMIN (Glucophage) 1000 mg PO BID 
11. dextrose-maltodextrin 10 gram/11.5 gram oral DAILY:PRN 
12. Senna 17.2 mg PO BID:PRN constipation 
13. Fenofibrate 150 mg PO DAILY 
14. Atorvastatin 80 mg PO QPM 
15. Glargine 56 Units Breakfast
Glargine 56 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
16. Furosemide 20 mg PO DAILY 
17. Multivitamins 2 TAB PO DAILY 
18. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID 
19. Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate 
20. Pantoprazole 40 mg PO Q24H 
21. Aspirin 81 mg PO DAILY 
22. Vitamin D ___ UNIT PO EVERY MONTH 
23. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation QID:PRN 
24. FLUoxetine 20 mg PO DAILY 
25. TraZODone 300 mg PO QHS 
26. Capsaicin 0.025% 1 Appl TP QID shoulder pain 
27. Levothyroxine Sodium 50 mcg PO DAILY 
28. Cyanocobalamin 1000 mcg PO DAILY 
29. Rivaroxaban 10 mg PO DAILY 
30. Sodium Chloride Nasal ___ SPRY NU QID:PRN congestion 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
For 3 months following drug eluding stent 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*5 
2.  Glargine 56 Units Breakfast
Glargine 56 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
3.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation QID:PRN  

4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H  
7.  Capsaicin 0.025% 1 Appl TP QID shoulder pain  
8.  Cyanocobalamin 1000 mcg PO DAILY  
9.  dextrose-maltodextrin 10 gram/11.5 gram oral DAILY:PRN  
10.  Divalproex (EXTended Release) 500 mg PO BID  
11.  Divalproex (EXTended Release) 250 mg PO QHS  
12.  Fenofibrate 150 mg PO DAILY  
13.  FLUoxetine 30 mg PO DAILY  
14.  Furosemide 20 mg PO DAILY  
15.  Gabapentin 300 mg PO TID  
16.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID  
17.  Levothyroxine Sodium 50 mcg PO DAILY  
18.  Losartan Potassium 50 mg PO DAILY  
19.  Magnesium Oxide 400 mg PO BID  
20.  Metoprolol Tartrate 12.5 mg PO BID  
21.  Multivitamins 2 TAB PO DAILY  
22.  Pantoprazole 40 mg PO Q24H  
23.  Rivaroxaban 10 mg PO DAILY  
24.  Senna 17.2 mg PO BID:PRN constipation  
25.  Sodium Chloride Nasal ___ SPRY NU QID:PRN congestion  
26.  TraZODone 300 mg PO QHS  
27.  Vitamin D ___ UNIT PO EVERY MONTH  
28.  ZIPRASidone Hydrochloride 40 mg PO BID  
29. HELD- ibrutinib 420 mg oral DAILY  This medication was held. 
Do not restart ibrutinib until ___. HELD- MetFORMIN (Glucophage) 1000 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until ___ 
___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
NSTEMI, Coronary artery disease
Diabetes
Hypertension
Hyperlidpidemia

 
Discharge Condition:
HPI: 
This is a ___ year old male with a history of dementa, CVA, 
hyperlipidemia, hypertension and OSA transferred for cardiac 
catheterization following presentation to ___ for chest pain 
and a mildly elevated troponin. He underwent repeat 
catheterization ___ and received a DES to the LAD. 
Post-procedure he is doing well and is looking forward to being 
discharged. His access sites were dry and intact, with no 
erythema, excess warmth, bleeding or bruit noted.

VS:98.2, 126/67, HR 58, RR 20, 02 sat 96% RA.  
Tele: Sinus rhythem, 12 beats SVT overnight, asymptomatic, labs 
WNL.
ECG: SB @ 58 bpm.
LABS: Hct 27.5, Plts 167, INR 0.9, BUN 16, Creat 1.3, Na 135, 
K+4.5, Trop <0.01 , CK-MB 2, Mag 2.3. 

PE:
General: lying on stretcher, anxious but cooperative
Neuro: Awake, alert and oriented x3, vague but appropriate. MAE. 
Ambulating with cane in halls. Speech clear, appropriate and 
comprehensible. 
HEENT: MM dry 
Neck: no LAD, no JVD
CV: RRR, no M/R/G
Chest: LS clear bilat
ABD: soft, NT
Ext: no edema, DP and ___ pulses dopplerable. Access site without 
bleeding, hematoma or bruit. 

A/P:
___ M with hx of dementia, CVAHLD, HTN and OSA admitted for
chest pain with mildly elevated trop. 

#1: CAD: S/P coronary angiogram: no PCI initial cath, then 
returned to ___ lab on ___ and a DES was placed to LAD. 
- cont atorvastatin 80 mg and ASA 81 mg
- Plavix 75mg daily.
- Continue Metoprolol, Losarten

#2 HTN: clinically stable
- Continue LOsarten, Metoprolol, Isosorbide

#3 HLD: cont atorvastatin 80 mg

#4 SSS s/p pacer: tele stable. History of AFIB, on Xarelto
 - Now needs triple therapy
 - Reviewed with team best plan, given CLL and risk for bleeding 
and best evidence. Fellow recommending to continue Xarelto with 
ASA and Plavix and for his Cardiologist to determine whether to 
convert to Coumadin longer term

#5 CLL: currently on ibutinib po daily. Per OMR notes pt has
missed some doses lately. This medicine can lead to bleeding,
thrombycytopenia and neutropenia. Appears to be tol well so far.
WBC was 50 when initiated. Of note, no interaction with 
clopidogrel. ___ restart three days post-procedure. 

#6 Cognitive impairment: unclear how severe this is as he
remembers most of his meds and seems oriented at present. has
homemaker and social services. Extensive medication list
concerning depending on supports 
- daily supports at home; will have services and home ___

#7 Depression: on high dose trazadone
- continue medication regimen

#8 Right hip pain ___ bursitis: on multiple non narcotic pain
medicines/treatments and getting weekly scripts for vicodin from
PCP ___. Unable to perform history of medicines.
- vicodin BID only. 
- Con gabapentin and Depakote for hip pain. No ibuprofen given 
risk for bleeding

DISPO:
 Home with daily services as confirmed by CM. 
 

 
Discharge Instructions:
You were transferred from ___ following 
presentation there with chest pain and heart attack.  You 
underwent an initial cardiac catheterization on ___ and had a 
stent placement on ___. You were started on a new 
medication called Plavix which is taken to help prevent 
rethrombosis or clotting off of your stent.  Given that you are 
currently on Xarelto and there is a high risk of bleeding with 
Xarelto, Aspirin and Plavix, you will continue Plavix for 
minimum if three months and then consider stopping per 
instructions from your cardiologist. You will continue Aspirin 
81 mg Daily lifelong. You should not stop either of these 
medications unless instructed to do so by your Cardiologist.  

You will resume your Xarelto tonight per your home regimen. 

You should follow up with your Cardiologist in ___ weeks. At 
that time, you will be referred for Cardiac Rehab; a referral 
was provided. Until that time, avoid strenuous exercise. It is 
okay for you to walk. Specific instructions concerning your 
access sites are provided separately, along with weight bearing 
restrictions.

Continue to follow a heart healthy carbohydrate consistent diet. 
Your Metformin was held and may be resumed on ___, 
___. Additionally, you should follow up with your PCP 
___ ___ weeks.

You may resume your ibrutinib on ___. It was held for three 
days post-procedure per the recommendation of the oncologist due 
to the bleeding risk concern during your procedure. 

You were seen by Physical Therapy prior to discharge and 
recommended independent walking inside of house and cane use for 
outside activity. You will continue ___ after discharge in the 
home setting. A cardiac rehab referral was given and will be 
discussed at follow-up appointment with cardiology.
 
Followup Instructions:
___